US08119661B2
Step E. The preparation of ethyl 3-methyl-3-{4-[(3aS,7aS)-2-oxooctahydro-1H-benzimidazol-1-yl]piperidin-1-yl}pyrrolidine-1-carboxylate (mixture of diastereomers)
A solution of ethyl 3-[4-[[(1S,2S)-2-aminocyclohexyl]amino]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate (600 mg, 1.70 mmol) in anhydrous acetonitrile (30 mL) was added with 1,1′-carbonyldiimidazole (551.92 mg, 3.40 mmol) and stirred at room temperature for 12 h. The solvent was removed in vacuo; the residue was dissolved in dichloromethane (60 mL), washed with water and brine and dried over anhydrous MgSO4. Concentrated in vacuo and the residue was purified by flash chromatography (dichloromethane/methanol) to afford the title compound as a white solid (45 mg). 1H NMR (CD3OD, 400 MHz): δ 4.15 (q, 2H), 3.62-3.51 (m, 2H), 2.41 (m, 2H), 3.22 (m, 1H), 3.19 (brd, 1H), 2.99 (m, 3H), 2.76 (brs, 1H), 2.45 (m, 3H), 2.01-1.82 (m, 6H), 1.74 (brd, 1H), 1.65 (brd, 1H), 1.45 (m, 4H), 1.25 (t, 3H), 1.12 (s, 3H). MS (M+1): 379.18.

reactant | ethyl 3-[4-[[(1S,2S)-2-aminocyclohexyl]amino]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate | 1.70 mmol, 600 mg | N[C@@H]1[C@H](CCCC1)NC1CCN(CC1)C1(CN(CC1)C(=O)OCC)C | C19H36N4O2
reactant | 1,1′-carbonyldiimidazole | 3.40 mmol, 551.92 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | ethyl 3-methyl-3-{4-[(3aS,7aS)-2-oxooctahydro-1H-benzimidazol-1-yl]piperidin-1-yl}pyrrolidine-1-carboxylate | 45 mg | CC1(CN(CC1)C(=O)OCC)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C20H34N4O3
